US07282588B2
1-acetyl-5-fluoro-4-iodo-1H-pyrrolo[2,3-b]pyridine
A microwave vial was charged with 4-chloro-5-fluoro-1-[tris(1-methylethyl)silyl]-1H-pyrrolo[2,3-b]pyridine (3.06 mmol, prepared as described in Tetrahedron Lett. 2004, 45, 2317-2319), sodium iodide (4.90 mmol), acetyl chloride (6.43 mmol) and dry acetonitrile (8 mL). The reaction tube was sealed, and heated in a microwave reactor at 150° C. for 15 minutes. Upon cooling to room temperature, the resultant precipitate was collected by filtration and washed with a minimal amount of cold acetonitrile. Drying under high vacuum provided the title compound as a yellow powder which was used without further purification. ESMS [M+H]+: 305.2

reactant | 4-chloro-5-fluoro-1-[tris(1-methylethyl)silyl]-1H-pyrrolo[2,3-b]pyridine | 3.06 mmol | ClC1=C2C(=NC=C1F)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C | C16H24ClFN2Si
reactant | sodium iodide | 4.90 mmol | [I-].[Na+]
reactant | acetyl chloride | 6.43 mmol | C(C)(=O)Cl | C2H3ClO
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
product | 1-acetyl-5-fluoro-4-iodo-1H-pyrrolo[2,3-b]pyridine | C(C)(=O)N1C=CC=2C1=NC=C(C2I)F | C9H6FIN2O
